US06265411B1
Sodium hydride (100 mg, 2.6 mmol) was added to a solution of 6-cyanooxindole (350 mg, 2.2 mmol) in dry degassed DMF (10 ml) under argon and the suspension stirred for 30 minutes at ambient temperature. A solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (200 mg, 0.74mmol), (prepared as described for the starting material in Example 2), in dry degassed DMF (2 ml) was added dropwise and the reaction mixture was heated at 60° C. for 2 hours. The mixture was allowed to cool and the DMF was removed by evaporation and the residue was partitioned between ethyl acetate (50 ml) and water (50 ml). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (50 ml×3). The organic extracts were combined, dried (MgSO4) and the solvent removed by evaporation. The solid residue was purified by flash column chromatography eluting with methylene chloride/methanol/ammonia (99/1/1 and then 95/5/1). The purified solid was triturated in hot ether and collected by filtration and then triturated in hot methylene chloride/methanol (1/1), collected by filtration and dried to give 4-(6-cyanooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline (84 mg, 29%).

reactant | Sodium hydride | 2.6 mmol, 100 mg | [H-].[Na+]
reactant | 6-cyanooxindole | 2.2 mmol, 350 mg | C(#N)C1=CC=C2CC(NC2=C1)=O | C9H6N2O
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.74mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
product | 4-(6-cyanooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 84 mg, 29% | C(#N)C1=CC=C2C(C(NC2=C1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C21H18N4O4
